US03984465
3-(1-Oxo-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)propionic Acid
2-Cyclopentyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone (15.5 g., 0.05 mole) is dissolved in a 10% sodium hydroxide solution (50 ml.). The solution is heated to reflux and beta-propiolactone (36.0 g., 0.5 mole) is added at such a rate as to keep the reaction mixture refluxing. The reaction mixture is kept basic by the addition of 10% sodium hydroxide. The reaction mixture is cooled and acidified with dilute hydrochloric acid. The product is extracted with ether and extracted from the ether solution with a 5% solution of sodium bicarbonate. Acidification affords the desired product.

reactant | 2-Cyclopentyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone | 0.05 mole, 15.5 g | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C15H16Cl2O2
reactant | beta-propiolactone | 0.5 mole, 36.0 g | C1(CCO1)=O | C3H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 50 ml | [OH-].[Na+]
product | 3-(1-Oxo-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)propionic Acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCCC(=O)O)(C)C1CCCC1 | C18H20Cl2O4
